US09359337B2
A solution of crude [1-(4-trifluoromethyl-phenyl)-pyrrolidin-3-yl]-methylamine (26.6 mg, 0.11 mmol, crude) and [(4-fluoro-benzenesulfonyl)-isopropyl-amino]-acetic acid (30.0 mg, 0.11 mmol) in dichloromethane (5 mL) at 25° C. was treated with HATU (41.4 mg, 0.11 mmol). N,N-Diisopropylethylamine (28.2 mg, 0.22 mmol) was added to the solution. The reaction mixture was stirred for 2 h. The reaction mixture was then poured into 0.2 M aqueous KHSO4 and extracted three times with ethyl acetate. The combined organic layers were washed three times with water and once with brine. The organic layer was then dried over magnesium sulfate, filtered and concentrated in vacuo. Flash column chromatography (50/50 hexanes/ethyl acetate) afforded 2-[(4-fluoro-benzenesulfonyl)-isopropyl-amino]-N-[1-(4-trifluoromethyl-phenyl)-pyrrolidin-3-ylmethyl]-acetamide (24.2 mg, 44%) as a white solid. [MH]+=502.1.

reactant | [1-(4-trifluoromethyl-phenyl)-pyrrolidin-3-yl]-methylamine | 0.11 mmol, 26.6 mg | FC(C1=CC=C(C=C1)N1CC(CC1)NC)(F)F | C12H15F3N2
reactant | [(4-fluoro-benzenesulfonyl)-isopropyl-amino]-acetic acid | 0.11 mmol, 30.0 mg | FC1=CC=C(C=C1)S(=O)(=O)N(C(C)C)CC(=O)O | C11H14FNO4S
reactant | HATU | 0.11 mmol, 41.4 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-Diisopropylethylamine | 0.22 mmol, 28.2 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | KHSO4 | 0.2 M | OS(=O)(=O)[O-].[K+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-[(4-fluoro-benzenesulfonyl)-isopropyl-amino]-N-[1-(4-trifluoromethyl-phenyl)-pyrrolidin-3-ylmethyl]-acetamide | 24.2 mg, 44% | FC1=CC=C(C=C1)S(=O)(=O)N(CC(=O)NCC1CN(CC1)C1=CC=C(C=C1)C(F)(F)F)C(C)C | C23H27F4N3O3S
